US07465815B2
3-(4-Isopropylphenyl)-4-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-5-amine
Using N-benzyl-3-(4-isopropylphenyl)-4-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-5-amine synthesized in Reference Example 290, the title compound was synthesized in the same manner as in Reference Example 30. Yield 91%. Melting point: 112-113° C. (hexane-ethyl acetate).

reactant | N-benzyl-3-(4-isopropylphenyl)-4-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-5-amine | C(C1=CC=CC=C1)NC1=C(C2=C(OCC2C2=CC=C(C=C2)C(C)C)C=2CCCC12)C | C28H31NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(4-Isopropylphenyl)-4-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-5-amine | Yield 91% | C(C)(C)C1=CC=C(C=C1)C1C2=C(OC1)C=1CCCC1C(=C2C)N | C21H25NO
